US06613747B2
1,3-dihydro-1,3-dioxo-2H-isoindole-2-acetaldehyde
To a solution of N-(2-hydroxyethyl)phthalimide (1.92 g, 10 mmol) and triethylamine (7 mL, 50 mmol) in DMSO (25 mL) was added solid pyridine sulfur trioxide (4.8 g, 30 mmol) by portions. The resulting mixture was stirred at room temperature for 1 h. The reaction mixture is poured into a mixture of CH2Cl2 and 0.5N aq. citric acid. The layers were separated and the organic layer was washed with water and brine. The organic phase was dried (Na2SO4), and the solvent was removed in vacuo. The resultant residue was purified by flash chromatography (SiO2, 1:1 ethyl acetate/hexane) to provide the title compound (0.6 g, 32%). MS 190 (M+H)+.

reactant | N-(2-hydroxyethyl)phthalimide | 10 mmol, 1.92 g | OCCN1C(C=2C(C1=O)=CC=CC2)=O | C10H9NO3
reactant | triethylamine | 50 mmol, 7 mL | C(C)N(CC)CC | C6H15N
reactant | pyridine sulfur trioxide | 30 mmol, 4.8 g | S(=O)(=O)=O.N1=CC=CC=C1
reactant | citric acid | 0.5N | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | DMSO | 25 mL | CS(=O)C | C2H6OS
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 1,3-dihydro-1,3-dioxo-2H-isoindole-2-acetaldehyde | 0.6 g, 32% | O=C1N(C(C2=CC=CC=C12)=O)CC=O | C10H7NO3
